US08405069B2
l. 11-(acryloyloxy)undecylphosphonic acid
11-(diethoxyphosphoryl)undecyl acrylate (420 mg, 1.16 mmol) was dissolved in ˜5 mL dry DCM. TMS bromide (0.33 mL, 2.55 mmol) was added via syringe and the rbf was greased and capped and allowed to stir for 2 hours. The solvent was concentrated by rotary evaporation and the product mixture redissolved in ˜3 mL methanol and ˜5 mL water and stirred for 2.5 hours during which a white precipitate formed. 1 M HCl was added and the product was extracted into dichloromethane, dried over magnesium sulfate, and pumped dry. The yellow/brown solid was dissolved in hot acetonitrile and put in the freezer overnight. Filtration afforded a white solid (143 mg, 40% yield). 1H NMR (300 MHz, CDCl3) δ 9.82 (br, s, 2H), 6.40 (dd, J=17.32, 1.61 Hz), 6.12 (dd, J=17.32, 10.41 Hz), 5.81 (dd, J=10.40, 1.60 Hz), 4.15 (t, J=6.73 Hz, 2H), 1.82-1.50 (m, 6H), 1.42-1.18 (m, 14H). 13C{1H} NMR (125.77 MHz, CDCl3) δ 166.76, 130.85, 129.05, 65.12, 30.87 (d, J=17.38 Hz), 29.89, 29.88, 29.76, 29.65, 29.46, 29.01, 26.33, 25.76 (d, J=143.86 Hz), 22.45 (d, J=4.85 Hz). Analysis found (calculated) %: C, 55.09 (54.89); H, 8.79 (8.88). 31P{1H}NMR (161.97 MHz, CDCl3): δ 38.76.

reactant | 11-(diethoxyphosphoryl)undecyl acrylate | 1.16 mmol, 420 mg | C(C=C)(=O)OCCCCCCCCCCCP(=O)(OCC)OCC | C18H35O5P
reactant | TMS bromide | 2.55 mmol, 0.33 mL | [Si](C)(C)(C)Br | C3H9BrSi
reactant | HCl | 1 M | Cl | ClH
solvent | DCM | ˜5 mL | C(Cl)Cl | CH2Cl2
product | 11-(acryloyloxy)undecylphosphonic acid | 143 mg, 40% yield | C(C=C)(=O)OCCCCCCCCCCCP(O)(O)=O | C14H27O5P
